US05166170
1-(1,1-Dimethylethoxycarbonyl)-2-(2-aminophenyl)-2,3-dihydro-1H-indole
A solution of 5.20 g di-tert-butyl dicarbonate in 25 ml CH2Cl2 was added dropwise to a solution of 5.00 g 2-(2-aminophenyl)-2,3-dihydro-1H-indole in CH2Cl2 at 10° C. The resulting solution was stirred for two and a half hours at room temperature. It was then washed with 5% NaOH and sat. NaCl solution, dried (MgSO4), and concentrated to yield a solid. Purification by HPLC using CH2Cl2 yielded 3.71 g solid, m.p. 114°-117° C.

reactant | di-tert-butyl dicarbonate | 5.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(2-aminophenyl)-2,3-dihydro-1H-indole | 5.00 g | NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C14H14N2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(1,1-Dimethylethoxycarbonyl)-2-(2-aminophenyl)-2,3-dihydro-1H-indole | 3.71 g | CC(C)(OC(=O)N1C(CC2=CC=CC=C12)C1=C(C=CC=C1)N)C | C19H22N2O2
